US03981932
Ethyl p-cyclohexylphenylglyoxylate, 49.5 g. (0.19 mole) and 6.1 g. of iodine are dissolved in 100 ml. of carbon tetrachloride. To this solution is added a solution of 56.7 g. (0.8 mole) of chlorine dissolved in 500 ml. of carbon tetrachloride over a period of 3 hours. During the addition, the temperature of the reaction mixture is maintained at 0°C. The mixture is stirred for 3 hours and allowed to stand with gradual warming to room temperature over 30 hours. The solvent is removed in vacuo. The residue is fractionally distilled to obtain ethyl 3,5-dichloro-4-cyclohexylphenylglyoxylate.

reactant | Ethyl p-cyclohexylphenylglyoxylate | C1(CCCCC1)C1=CC=C(C=C1)C(C(=O)OCC)=O | C16H20O3
reactant | iodine | II | I2
reactant | chlorine | 0.8 mole | ClCl | Cl2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 3,5-dichloro-4-cyclohexylphenylglyoxylate | ClC=1C=C(C=C(C1C1CCCCC1)Cl)C(C(=O)OCC)=O | C16H18Cl2O3
